US07241778B2
4-(Piperidin-4-yloxy)-benzonitrile
A solution of 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (14.99 g) and 4-chlorobenzonitrile (10.35 g) in DMF (100 mL) was treated with sodium hydride (60%, 3.8 g). The resulting dark mixture was then heated to 65 C for 16 h, and allowed to cool to RT. The mixture was poured into water (1 L) and extracted with ether (3×400 mL). The combined organic phases were evaporated and the brown oil dissolved in methanol (500 mL) and treated with concentrated hydrochloric acid (20 mL). After 24 h the methanol was removed, 5% aqueous sodium hydroxide (300 mL) and water (300 mL) were added, and the mixture was extracted with DCM (3×300 mL). The combined organic phases were dried (sodium sulfate) and evaporated. Bulb to bulb distillation of the residue gave the title compound as an off white waxy solid (12.23 g).

reactant | 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 14.99 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | 4-chlorobenzonitrile | 10.35 g | ClC1=CC=C(C#N)C=C1 | C7H4ClN
reactant | sodium hydride | 3.8 g | [H-].[Na+]
reactant | water | 1 L | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 4-(Piperidin-4-yloxy)-benzonitrile | N1CCC(CC1)OC1=CC=C(C#N)C=C1 | C12H14N2O
